US08871766B2
B) 4-fluoro-2-(pyridin-4-yl)benzoic acid hydrochloride
A mixture of methyl 4-fluoro-2-(pyridin-4-yl)benzoate (0.88 g) and 6 N hydrochloric acid (13 mL) was stirred at 90° C. for 18 hr. The solvent was evaporated under reduced pressure to give the title compound (0.96 g).

reactant | methyl 4-fluoro-2-(pyridin-4-yl)benzoate | 0.88 g | FC1=CC(=C(C(=O)OC)C=C1)C1=CC=NC=C1 | C13H10FNO2
reactant | hydrochloric acid | 6 N, 13 mL | Cl | ClH
product | 4-fluoro-2-(pyridin-4-yl)benzoic acid hydrochloride | 0.96 g | Cl.FC1=CC(=C(C(=O)O)C=C1)C1=CC=NC=C1 | InChI=1S/C12H8FNO2.ClH/c13-9-1-2-10(12(15)16)11(7-9)8-3-5-14-6-4-8;/h1-7H,(H,15,16);1H
